US06251936B1
2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-isopropyl-phenol
To a suspension of 2-isopropyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol (0.35 g, 0.81 mmol) and potassium acetate (0.80 g, 8.11 mmol) in glacial acetic acid (11 mL) was added a solution of bromine (0.05 mL, 0.97 mmol) in glacial acetic acid (1.5 mL) dropwise at room temperature. An additional 1 mL of acetic acid was used to rinse the pipette and flask. After stirring at room temperature for 4 h the reaction was quenched with a small amount of dilute sodium bisulfite and diluted with water (100 mL). The white solid was collected on a sintered glass funnel, washed well with water and dried (Na2SO4) to give the title compound as a white solid (0.40 g, 98%): mp 157-162° C.; (DMSO-d6): δ9.20 (s, 1H), 8.19 (d, 1H), 7.66-7.61 (m, 1H), 7.49-7.48 (m, 2H), 7.35 (d, 1H), 7.13 (d,1H), 3.40 (septet, 1H), 2.42 (s, 3H), 1.60 (s, 3H), 1.16 (d, 6H); MS(+FAB): [M+H], 2 bromine isotope pattern, 502 (12%), 504 (30%), 506 (18%); Anal. Calc. for C23H20Br2OS: C, 54.78; H, 4.00; N, 0.00. Found: C, 53.67; H, 3.84; N, 0.03.

reactant | 2-isopropyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 0.81 mmol, 0.35 g | C(C)(C)C1=C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O | C23H21BrOS
reactant | potassium acetate | 8.11 mmol, 0.80 g | C(C)(=O)[O-].[K+]
reactant | bromine | 0.97 mmol, 0.05 mL | BrBr | Br2
solvent | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-isopropyl-phenol | 0.40 g, 98% | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C(C)C)O | C23H20Br2OS
